US07285563B2
N-[3-(2-Aminoethyl)isoquinolin-5-yl]-N′-[4-(trifluoromethyl)benzyl]urea
To a solution of tert-butyl 2-(5-aminoisoquinolin-3-yl)ethylcarbamate (Description 116; 200 mg, 0.7 mmol) in deuterated chloroform (5 ml) was added [4-(trifluoromethyl)benzyl]isocyanate (0.506M solution in DCM) (Description 58; 1.38 ml, 0.7 mmol), and the resulting mixture heated at reflux overnight. The reaction mixture was cooled and the precipitate removed by filtration, washed with DCM and dried. The solid was dissolved in methanol (10 ml) and hydrogen chloride gas passed through the mixture for 5 mins, after which time the mixture was left standing for 1 hour. The mixture was evaporated and purified using an SCX cartridge—appropriate fractions were evaporated to give the title compound (25 mg, 9%) as a white solid. m/z (ES+) 389 (M+H)+.

reactant | tert-butyl 2-(5-aminoisoquinolin-3-yl)ethylcarbamate | 0.7 mmol, 200 mg | NC1=C2C=C(N=CC2=CC=C1)CCNC(OC(C)(C)C)=O | C16H21N3O2
reactant | [4-(trifluoromethyl)benzyl]isocyanate | 0.7 mmol, 0.506M, 1.38 ml | FC(C1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO
product | N-[3-(2-Aminoethyl)isoquinolin-5-yl]-N′-[4-(trifluoromethyl)benzyl]urea | 25 mg, 9% | NCCC=1N=CC2=CC=CC(=C2C1)NC(=O)NCC1=CC=C(C=C1)C(F)(F)F | C20H19F3N4O
